US03976661
[5,5-Dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]-(methylsulfonyl)acetonitrile ##SPC7##
N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate (4.7 g., 0.015 mol.), methylsulfonylacetonitrile (1.8 g., 0.015 mol.) and triethylamine (4.6 ml.) are dissolved in ethanol (15 ml.) and heated at reflux for 5 minutes. After chilling, the crude dye is collected on a filter, washed with methanol and dried. After one recrystallization from pyridine/methanol, the yield of purified dye is 1.2 g. (27%), m.p. 260°-261°C. with decomposition. The above dye compound has excellent absorption characteristics in the ultraviolet region of the spectrum as shown in Table 1 below.

reactant | N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate | 0.015 mol, 4.7 g | Cl(=O)(=O)(=O)[O-].ClC1=CC(CC(C1)(C)C)=[N+]1CCCC1
reactant | methylsulfonylacetonitrile | 0.015 mol, 1.8 g | CS(=O)(=O)CC#N | C3H5NO2S
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | [5,5-Dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]-(methylsulfonyl)acetonitrile | CC1(CC(C=C(C1)N1CCCC1)=C(C#N)S(=O)(=O)C)C | C15H22N2O2S
